US07572809B2
A solution of 3-(3-Hydroxy-4-methoxy-phenyl)-propionic acid in methanesulfonic acid (10 ml) was heated at 90° C. for 10 minutes under microwave irradiation. The mixture was poured into ice (300 g) and stirred for 1 hour. The precipitate was collected and dried to give 5-Hydroxy-6-methoxy-indan-1-one (2 g). LC-MS: m/e 179 (MH+).

reactant | 3-(3-Hydroxy-4-methoxy-phenyl)-propionic acid | OC=1C=C(C=CC1OC)CCC(=O)O | C10H12O4
solvent | methanesulfonic acid | 10 ml | CS(=O)(=O)O | CH4O3S
product | 5-Hydroxy-6-methoxy-indan-1-one | 2 g | OC=1C=C2CCC(C2=CC1OC)=O | C10H10O3
